US05856529
Step 2: Benzofuran-4-carboxaldehyde
A solution of N-methoxy-N-methyl-benzofuran-4-carboxamide (3.2 g, 16.6 mmol) in THF (100 mL) was cooled to -45° C. and then LAH (0.7 g, 18.7 mmol) was added. The mixture was stirred for 15 min, allowed to warm to -5° C., and then recooled to -45° C. Saturated KHSO4 (25 mL) was added with vigorous stirring, and the mixture was allowed to warm to room temperature. The precipitate was filtered and washed with acetone. The filtrate was concentrated in vacuo to give an oil (2.3 g, 94%).

reactant | N-methoxy-N-methyl-benzofuran-4-carboxamide | 16.6 mmol, 3.2 g | CON(C(=O)C=1C=CC=C2C1C=CO2)C | C11H11NO3
reactant | LAH | 18.7 mmol, 0.7 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | KHSO4 | 25 mL | OS(=O)(=O)[O-].[K+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | Benzofuran-4-carboxaldehyde | 2.3 g, 94% | O1C=CC=2C1=CC=CC2C=O | C9H6O2
